US08420642B2
2-Bromo-5-methoxy-pyridine (0.97 mmol), sodium-tert.-butylate (1.5 eq.), and 1-methyl-1H-pyrazole-3-amine (1.3 eq.) are dissolved in degassed dioxane (2 ml) and heated to 80° C. Chloro-(di-2-norbornylphosphino)(2-dimethylaminoferrocene-1-yl)palladium (II) (5 mg) in degassed dioxane (1 ml) is added and the reaction is heated for 20 hours at 110° C. The reaction is quenched with ethylacetate/methanol (30 ml, 9:1) and filtrated over celite. The solvent of the filtrate is removed in vacuo. (5-Methoxy-pyridine-2-yl)-(1-methyl-1H-pyrazole-3-yl)-amine (“A24”) is obtained after reversed phase column chromatography (water/acetonitrile+0.1% TFA) as colorless powder in a yield of 55%; HPLC (method C): 1.09 min; LC-MS (method A): 0.73 min, 205.0 (M+H+);

reactant | 2-Bromo-5-methoxy-pyridine | 0.97 mmol | BrC1=NC=C(C=C1)OC | C6H6BrNO
reactant | 1-methyl-1H-pyrazole-3-amine | 1.3 eq. | CN1N=C(C=C1)N | C4H7N3
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | Chloro-(di-2-norbornylphosphino)(2-dimethylaminoferrocene-1-yl)palladium (II) | 5 mg | Cl[Pd-]([C-]1C(=CC=C1)N(C)C)P(C1C2CCC(C1)C2)C2C1CCC(C2)C1.[CH-]1C=CC=C1.[Fe+2]
product | (5-Methoxy-pyridine-2-yl)-(1-methyl-1H-pyrazole-3-yl)-amine | yield of 55% | COC=1C=CC(=NC1)NC1=NN(C=C1)C | C10H12N4O
